US04259489
2,3-Dicyano-5-ethylamino-6-chloropyrazine (2.07 g; 0.01 mole) was dissolved in 40 ml of tetrahydrofuran. The solution was cooled to 0° to 5° C., and with stirring, a solution prepared from 0.94 g (0.01 mole) of phenol, 0.56 g (0.01 mole) of potassium hydroxide, 5 ml of water and 20 ml of tetrahydrofuran was added dropwise over the period of 10 minutes. Then, the mixture was stirred at 0° to 5° C. for 1 hour. After the reaction, the precipitate was separated by filtration. The filtrate was concentrated under reduced pressure, and the residue was poured into 80 ml of water. The precipitated crystals were collected by filtration, and recrystallized from benzene to afford 2.22 g (yield 84%) of 2,3-dicyano-5-ethylamino-6-phenoxypyrazine.

reactant | 2,3-Dicyano-5-ethylamino-6-chloropyrazine | 0.01 mole, 2.07 g | C(#N)C1=NC(=C(N=C1C#N)NCC)Cl | C8H6ClN5
reactant | phenol | 0.01 mole, 0.94 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 0.01 mole, 0.56 g | [OH-].[K+]
reactant | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2,3-dicyano-5-ethylamino-6-phenoxypyrazine | 2.22 g, yield 84% | C(#N)C1=NC(=C(N=C1C#N)NCC)OC1=CC=CC=C1 | C14H11N5O
